US05872137
To a mixture of 0.51 g of 2,6-dichloro-4-(3,3,-dichloro-2-propenyloxy)phenol, 0.17 g of potassium carbonate and 20 ml of N,N-dimethylformamide was added dropwise a solution of 0.34 g of 2-fluoro-5-(4-fluorophenoxy)benzyl bromide dissolved in 5 ml of N,N-dimethylformamide, while stirring at room temperature. After stirring at room temperature for 24 hours, the reaction mixture was poured into ice-water, and extracted twice with 50 ml of diethyl ether. The combined ether layer was washed with water, dried with anhydrous magnesium sulfate, and concentrated to obtain a crude product. The crude product was subjected to silica gel chromatography, which afforded 0.50 g of 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(2-fluoro-5-(4-fluorophenoxy) benzyloxy)benzene (68% yield), nD26.0 1.5871.

reactant | 2,6-dichloro-4-(3,3,-dichloro-2-propenyloxy)phenol | 0.51 g | ClC1=C(C(=CC(=C1)OCC=C(Cl)Cl)Cl)O | C9H6Cl4O2
reactant | potassium carbonate | 0.17 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-fluoro-5-(4-fluorophenoxy)benzyl bromide | 0.34 g | FC1=C(CBr)C=C(C=C1)OC1=CC=C(C=C1)F | C13H9BrF2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(2-fluoro-5-(4-fluorophenoxy) benzyloxy)benzene | 0.50 g, 68% yield | ClC=1C=C(C=C(C1OCC1=C(C=CC(=C1)OC1=CC=C(C=C1)F)F)Cl)OCC=C(Cl)Cl | C22H14Cl4F2O3
